US05241057
1-amino-8-hydroxynaphthalene-4-sulphonic acid.
N-β-Hydroxyethylaniline, semicarbazide, benzoic acid hydrazide, 4-(β-sulphatoethylsulphonyl)-aniline, 3-(β-sulphatoethylsulphonyl)-aniline, 4-amino-1-methoxy-benzene-2-sulphonic acid, 4-amino-1-ethoxy-benzene-2-sulphonic acid, 4-aminophenol-6-sulphonic acid, 2-aminophenol-5-sulphonic acid, 4-aminotoluene-2-sulphonic acid, β-N-methylaminopropionitrile, β-aminopropionitrile and aminoacetic acid.

reactant | N-β-Hydroxyethylaniline | OCCNC1=CC=CC=C1 | C8H11NO
reactant | semicarbazide | NNC(=O)N | CH5N3O
reactant | benzoic acid hydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | 4-amino-1-methoxy-benzene-2-sulphonic acid | NC1=CC(=C(C=C1)OC)S(=O)(=O)O | C7H9NO4S
reactant | 4-amino-1-ethoxy-benzene-2-sulphonic acid | NC1=CC(=C(C=C1)OCC)S(=O)(=O)O | C8H11NO4S
reactant | 4-aminotoluene-2-sulphonic acid | NC=1C=C(C(=CC1)C)S(=O)(=O)O | C7H9NO3S
reactant | β-N-methylaminopropionitrile | CNCCC#N | C4H8N2
reactant | β-aminopropionitrile | NCCC#N | C3H6N2
reactant | aminoacetic acid | NCC(=O)O | C2H5NO2
product | 1-amino-8-hydroxynaphthalene-4-sulphonic acid | NC1=CC=C(C2=CC=CC(=C12)O)S(=O)(=O)O | C10H9NO4S
